data/oMe_Silver.jsonl
{"reaction_id": "NR-122_1-C(=O)C_2-C#N_3-c1cnccc1_4-c1ccc(C(F)(F)F)cc1","name": "Knoevenagel Condensation","level": "medium","reactants_smiles": ["C(=O)(c1cnccc1)c1ccc(C(F)(F)F)cc1","C(C(=O)C)C#N"],"products_smiles": ["C(=C(C(=O)C)C#N)(c1cnccc1)c1ccc(C(F)(F)F)cc1"],"conditions": "C1CCNCC1","mechanism": [{"step": 1,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=[N+]1CCCCC1)(c1cnccc1)c1ccc(C(F)(F)F)cc1","rationale": "Piperidine attacks the carbonyl carbon, forming an iminium ion; the nitrogen lone pair facilitates electrophilic activation by increasing carbonyl carbon's partial positive charge through resonance and inductive effects."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH-](C(=O)C)C#N","rationale": "The basic nitrogen abstracts an acidic α-proton from C(=O)C–C#N methylene, stabilized by resonance with adjacent electron-withdrawing groups, generating a nucleophilic carbanion."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(N1CCCCC1)(c1cnccc1)c1ccc(C(F)(F)F)cc1)(C(=O)C)C#N","rationale": "The resonance-stabilized carbanion attacks the iminium carbon, favored by strong electrophilicity from the positively charged nitrogen and minimal steric hindrance at the reaction site."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C(N1CCCCC1)(c1cnccc1)c1ccc(C(F)(F)F)cc1)(C(=O)C)C#N","rationale": "Proton transfer regenerates the neutral amine and positions the intermediate for elimination, driven by the stability of the conjugated alkene product."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(C(=O)C)C#N)(c1cnccc1)c1ccc(C(F)(F)F)cc1","rationale": "Elimination of piperidine occurs as the leaving group is stabilized by its basicity and the formation of a conjugated C=C bond provides thermodynamic driving force."}],"description": "In the piperidine-catalyzed Knoevenagel condensation, the amine activates the carbonyl via iminium formation, while also deprotonating the active methylene compound to generate a nucleophile. Nucleophilic addition to the activated carbonyl is followed by proton transfers and elimination to yield the conjugated alkene."}
{"reaction_id": "NR-144_1-C#N_2-c1ccc(C(F)(F)F)cc1_3-F_4-c1ccc(Cl)cc1_5-C(C)(C)C","name": "Michael Addition","level": "medium","reactants_smiles": ["C(C#N)(c1ccc(C(F)(F)F)cc1)=C(F)C(=O)C(C)(C)C","S([H])c1ccc(Cl)cc1"],"products_smiles": ["S(c1ccc(Cl)cc1)C(C#N)(c1ccc(C(F)(F)F)cc1)C(F)C(=O)C(C)(C)C"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[S-]c1ccc(Cl)cc1","rationale": "Base abstracts the acidic proton from the thiol due to sulfur’s relatively low pKa, generating a thiolate anion with high nucleophilicity."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "S(c1ccc(Cl)cc1)C(C#N)(c1ccc(C(F)(F)F)cc1)C(F)=C([O-])C(C)(C)C","rationale": "The thiolate attacks the β-carbon of the α,β-unsaturated carbonyl via conjugate addition, favored by resonance stabilization of the resulting enolate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(c1ccc(Cl)cc1)C(C#N)(c1ccc(C(F)(F)F)cc1)C(F)C(=O)C(C)(C)C","rationale": "The enolate intermediate is protonated to form the neutral thioether, driven by the thermodynamic stability of the carbonyl group."}],"description": "Under basic conditions, the thiol is deprotonated to form a strong nucleophile, which undergoes conjugate (Michael) addition to the α,β-unsaturated carbonyl. The resulting enolate intermediate is then protonated to yield the stable thioether product."}
